*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_7000_4666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 93.3716
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 93.3716
cd_0_0_0_0 nd_1_0_1000_666_ci 0 2.14198e-11
rdload_0_0_0_1 nd_1_0_3000_666 0 130.372
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 130.372
cd_0_0_0_1 nd_1_0_3000_666_ci 0 1.53407e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 648.709
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 648.709
cd_0_0_0_2 nd_1_0_5000_666_ci 0 3.08305e-12
rdload_0_0_0_3 nd_1_0_7000_666 0 107.913
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 107.913
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.85335e-11
rdload_0_0_0_4 nd_1_0_9000_666 0 59.2933
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 59.2933
cd_0_0_0_4 nd_1_0_9000_666_ci 0 3.37306e-11
rdload_0_0_0_5 nd_1_0_1000_2000 0 72.1619
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 72.1619
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 2.77155e-11
rdload_0_0_0_6 nd_1_0_3000_2000 0 128.842
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 128.842
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 1.55229e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 64.5667
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 64.5667
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 3.09757e-11
rdload_0_0_0_8 nd_1_0_7000_2000 0 542.831
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 542.831
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 3.68439e-12
rdload_0_0_0_9 nd_1_0_9000_2000 0 106.234
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 106.234
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 1.88263e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 71.1347
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 71.1347
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 2.81157e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 2459.06
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 2459.06
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 8.13319e-13
rdload_0_0_0_12 nd_1_0_5000_3333 0 53.4153
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 53.4153
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 3.74425e-11
rdload_0_0_0_13 nd_1_0_7000_3333 0 200.491
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 200.491
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 9.97551e-12
rdload_0_0_0_14 nd_1_0_9000_3333 0 103.863
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 103.863
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 1.92562e-11
rdload_0_0_0_15 nd_1_0_1000_4666 0 150.362
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 150.362
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 1.33012e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 70.1612
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 70.1612
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 2.85058e-11
rdload_0_0_0_17 nd_1_0_5000_4666 0 52.9816
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 52.9816
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 3.7749e-11
rdload_0_0_0_18 nd_1_0_7000_4666 0 63.0421
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 63.0421
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 3.17249e-11
rdload_0_0_0_19 nd_1_0_9000_4666 0 464.889
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 464.889
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 4.30211e-12
rdload_0_0_0_20 nd_1_0_1000_6000 0 48.98
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 48.98
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 4.0833e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 69.7451
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 69.7451
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 2.86758e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 1256.88
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 1256.88
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 1.59124e-12
rdload_0_0_0_23 nd_1_0_7000_6000 0 118.966
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 118.966
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.68116e-11
rdload_0_0_0_24 nd_1_0_9000_6000 0 183.253
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 183.253
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 1.09138e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 48.435
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 48.435
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 4.12925e-11
rdload_0_0_0_26 nd_1_0_3000_7333 0 143.477
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 143.477
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 1.39395e-11
rdload_0_0_0_27 nd_1_0_5000_7333 0 68.481
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 68.481
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 2.92052e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 86.8218
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 86.8218
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 2.30357e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 61.7371
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 61.7371
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 3.23955e-11
rdload_0_0_0_30 nd_1_0_1000_8666 0 382.467
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 382.467
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 5.2292e-12
rdload_0_0_0_31 nd_1_0_3000_8666 0 48.1191
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 48.1191
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 4.15635e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 139.661
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 139.661
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 1.43204e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 926.796
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 926.796
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 2.15797e-12
rdload_0_0_0_34 nd_1_0_9000_8666 0 51.6029
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 51.6029
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 3.87575e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val127'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet1
