*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.002


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_7000_5000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_1000 0 254.517
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 254.517
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 7.85802e-12
rdload_0_0_0_1 nd_1_0_3000_1000 0 163.999
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 163.999
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 1.21952e-11
rdload_0_0_0_2 nd_1_0_5000_1000 0 103.853
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 103.853
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.9258e-11
rdload_0_0_0_3 nd_1_0_7000_1000 0 120.801
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 120.801
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.65562e-11
rdload_0_0_0_4 nd_1_0_9000_1000 0 2031.73
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 2031.73
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 9.84382e-13
rdload_0_0_0_5 nd_1_0_1000_3000 0 249.038
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 249.038
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 8.03091e-12
rdload_0_0_0_6 nd_1_0_3000_3000 0 379.168
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 379.168
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 5.27471e-12
rdload_0_0_0_7 nd_1_0_5000_3000 0 161.914
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 161.914
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.23522e-11
rdload_0_0_0_8 nd_1_0_7000_3000 0 295.989
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 295.989
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 6.75701e-12
rdload_0_0_0_9 nd_1_0_9000_3000 0 511.497
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 511.497
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.91009e-12
rdload_0_0_0_10 nd_1_0_1000_5000 0 181.188
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 181.188
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.10383e-11
rdload_0_0_0_11 nd_1_0_3000_5000 0 110.023
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 110.023
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.8178e-11
rdload_0_0_0_12 nd_1_0_5000_5000 0 753.758
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 753.758
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 2.65337e-12
rdload_0_0_0_13 nd_1_0_7000_5000 0 203.488
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 203.488
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 9.8286e-12
rdload_0_0_0_14 nd_1_0_9000_5000 0 288.297
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 288.297
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 6.93729e-12
rdload_0_0_0_15 nd_1_0_1000_7000 0 142.437
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 142.437
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.40413e-11
rdload_0_0_0_16 nd_1_0_3000_7000 0 108.836
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 108.836
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.83763e-11
rdload_0_0_0_17 nd_1_0_5000_7000 0 354.827
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 354.827
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 5.63655e-12
rdload_0_0_0_18 nd_1_0_7000_7000 0 157.049
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 157.049
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 1.27349e-11
rdload_0_0_0_19 nd_1_0_9000_7000 0 282.647
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 282.647
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 7.07596e-12
rdload_0_0_0_20 nd_1_0_1000_9000 0 140.164
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 140.164
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.4269e-11
rdload_0_0_0_21 nd_1_0_3000_9000 0 175.994
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 175.994
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.1364e-11
rdload_0_0_0_22 nd_1_0_5000_9000 0 232.506
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 232.506
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 8.60194e-12
rdload_0_0_0_23 nd_1_0_7000_9000 0 679.687
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 679.687
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 2.94253e-12
rdload_0_0_0_24 nd_1_0_9000_9000 0 198.828
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 198.828
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.00589e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val164'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val165'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val166'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val167'
rd_add0 nd0 0 'esr43'
rd_add1 nd1 0 'esr44'
rd_add2 nd2 0 'esr45'
rd_add3 nd3 0 'esr46'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet5
